US06281219B1
4,6-Dichloropyrimidine (1.55 g, 0.01 mol) and N-metyl-3-trifluoromethylaniline (2.0 g, 0.11 mol) are combined and heated to 126° C. under N2 for 1.5 hours. The resulting oil is taken up in ethyl acetate, is washed with 10% sodium carbonate and dried over sodium sulphate. The organic phase is concentrated under reduced pressure to yield a yellow oil which is purified by column chromatography to give 4-chloro-6-(N-methyl-3-trifluoromethylanilino)-pyrimidine (1.78 g) as a white solid.

reactant | 4,6-Dichloropyrimidine | 0.01 mol, 1.55 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | N-metyl-3-trifluoromethylaniline | 0.11 mol, 2.0 g | CNC1=CC(=CC=C1)C(F)(F)F | C8H8F3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-chloro-6-(N-methyl-3-trifluoromethylanilino)-pyrimidine | 1.78 g | ClC1=NC=NC(=C1)N(C1=CC(=CC=C1)C(F)(F)F)C | C12H9ClF3N3
